US05710173
Reaction of 2-methylmercaptothiophen-5-carboxaldehyde and thien-3-ylsulfonylacetonitrile as in Example 1 gave (E)-3-(2-methylmercaptothien-5-yl)-2-(thien-3-ylsulfonyl)acrylonitrile

reactant | 2-methylmercaptothiophen-5-carboxaldehyde | CSC=1SC(=CC1)C=O | C6H6OS2
reactant | thien-3-ylsulfonylacetonitrile | S1C=C(C=C1)S(=O)(=O)CC#N | C6H5NO2S2
product | (E)-3-(2-methylmercaptothien-5-yl)-2-(thien-3-ylsulfonyl)acrylonitrile | CSC=1SC(=CC1)/C=C(\C#N)/S(=O)(=O)C1=CSC=C1 | C12H9NO2S4
